datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]C1=CC=CC=C1>>[H]C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C(C)C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C(C)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21]C)([S]CC)[S][H].[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([S]CC)[S][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C)CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)C>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C([H])[NH]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(CC)[O]2.C[S:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"[H]C1C(O[C:20](N1C)([O-:10])[O:21]C)C>>[H]C1C(O[C:20](=[O:10])N1C)C.[O-:21]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1C)C1=CC=CC=C1.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(CCC)C([H])C(C)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)C([H])C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][CH:20]2(OC)C(C3=C(C([NH+:10]2([H]))[H])C=CC=C3)[H]>>[NH:10]([H])C(C1=C(C([CH:20](OC)=[O:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O]CC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)C 21=20;20,10=10"
"[OH:21][C:20]1(C)[OH+:10]C([H])C(O)C1C>>[OH:10]C([H])C(O)C([C:20](C)=[OH+:21])C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])CCCCCC 21=20;20,10=10"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)C>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)CC)C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21][H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
